US06080773
A mixture containing 4.0 g of 2-(1,2-benzisoxazol-3-yl)-α-2-propenyl-benzenemethanol, 4.32 g of triphenylphosphine, 2.61 g of diethyl azodicarboxylate and 4.12 g of diphenylphosphoryl azide in 50 ml of benzene was stirred at room temperature for 24 h. Evaporation of the solvent under reduced pressure afforded a solid which was purified by chromatography on silica gel, eluting with 5% ethanol in toluene, to afford 1.5 g of 3-[2-(1-azido-3-butynyl)phenyl]-1,2-benzisoxazole as an oil, M.S. (C.I.) (M/Z): 289 [M+H]+.

reactant | 2-(1,2-benzisoxazol-3-yl)-α-2-propenyl-benzenemethanol | 4.0 g | O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)C(O)CC=C | C17H15NO2
reactant | triphenylphosphine | 4.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.61 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 4.12 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3-[2-(1-azido-3-butynyl)phenyl]-1,2-benzisoxazole | 1.5 g | N(=[N+]=[N-])C(CC#C)C1=C(C=CC=C1)C1=NOC2=C1C=CC=C2 | C17H12N4O
